US06875765B2
1-Bromo-2-naphthol (5.00 g, 22.4 mmol) was mixed with triisopropylsilyl chloride (7.2 mL, 33.6 mmol), DMAP (402 mg, 3.30 mmol), imidazole (3.81 g, 56.0 mmol), and pyridine (6 mL) in CH2Cl2 (50 mL). The reaction was refluxed for two hours. TLC analysis (silica, 15% EtOAc-hexanes) indicated the reaction was complete. The reaction was allowed to cool to room temperature and then was diluted with H2O. The dilution was extracted three times with CH2Cl2. The organic extracts were combined, washed with brine solution, dried over Na2SO4, filtered through celite, and concentrated. The crude product was purified by flash chromatography (SiO2, 100% hexanes) to give (1-bromo-naphthalen-2-yloxy)-triisopropyl-silane (8.4 g, 22.2 mmol) as a colorless oil in 99% yield. 1H NMR (300 MHz) CDCl3 8.21 (d, J=7.5 Hz, 1H), 7.76 (d, J=8.5 Hz, 1H), 7.68 (d, J=8.8 Hz, 1H), 7.54 (m, 1H), 7.38 (m, 1H), 7.15 (d, J=8.8 Hz, 1H), 1.38 (m, 3H), 1.16 (d, J=7.1 Hz, 18H).

reactant | 1-Bromo-2-naphthol | 22.4 mmol, 5.00 g | BrC1=C(C=CC2=CC=CC=C12)O | C10H7BrO
reactant | triisopropylsilyl chloride | 33.6 mmol, 7.2 mL | C(C)(C)[Si](C(C)C)(C(C)C)Cl | C9H21ClSi
reactant | imidazole | 56.0 mmol, 3.81 g | N1C=NC=C1 | C3H4N2
reactant | pyridine | 6 mL | N1=CC=CC=C1 | C5H5N
catalyst | DMAP | 3.30 mmol, 402 mg | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | CH2Cl2 | 50 mL | C(Cl)Cl | CH2Cl2
solvent | H2O | O | H2O
product | (1-bromo-naphthalen-2-yloxy)-triisopropyl-silane | 22.2 mmol, 8.4 g, 99% yield | BrC1=C(C=CC2=CC=CC=C12)O[Si](C(C)C)(C(C)C)C(C)C | C19H27BrOSi
